US09145433B2
6-Chloro-4-methoxypyrido[3,2-d]pyrimidine 4,6-Dichloropyrido[3,2-d]pyrimidine (prepared from Int'l Pat. App. Pubs. nos. 2005058913, 2011131741 and 201009469) (2.5 g, 12.4 mmol) and NaHCO3 (3.1 g, 31 mmol) in MeOH (20 mL) were heated at 70° C. for 12 h under nitrogen atmosphere. The reaction mixture was filtered and concentrated the filtrate. The crude concentrate was diluted with water and filtered. The suction dried solid was stirred in EtOAc (20 mL) and filtered to obtain 6-chloro-4-methoxypyrido[3,2-d]pyrimidine (1.8 g) as an off-white solid. 1H NMR (300 MHz, DMSO-d6): δ 8.88 (s, 1H), 8.37 (d, J=8.8 Hz, 1H), 8.00 (d, J=8.8 Hz, 1H), 4.14 (s, 3H).

reactant | 6-Chloro-4-methoxypyrido[3,2-d]pyrimidine 4,6-Dichloropyrido[3,2-d]pyrimidine | 12.4 mmol, 2.5 g | ClC=1C2=C(N=CN1)C=CC(=N2)Cl.ClC=2C=CC=1N=CN=C(C1N2)OC
reactant | NaHCO3 | 31 mmol, 3.1 g | C(=O)(O)[O-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 6-chloro-4-methoxypyrido[3,2-d]pyrimidine | 1.8 g | ClC=1C=CC=2N=CN=C(C2N1)OC | C8H6ClN3O
